US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-3-carboxamide
To a mixture of 1H-pyrazole-3-carboxylic acid (89 mg, 0.767 mmol) in DCM (5 ml), was added DIPEA (0.40 ml, 2.30 mmol). O-(Benzotriazol-1-yl)-N,N,N′,N′-tetramethyluroniutnhexafluorophosphate (HBTU, 291.0 mg, 0.767 mmol) at RT. The mixture was stirred for 15 min and solid (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (200 mg, 0.767 mmol) was added. The reaction was stirred overnight at RT. The solvent was evaporated and water was added. The pH of the water phase was adjusted to 9-10 and the product was extracted to DCM. The organic layer was washed with water and brine, dried over Na2SO4 and evaporated. The crude product was purified with flash chromatography (DCM/EtOAc gradient) to give title compound 100 mg. 1H-NMR (400 MHz; d6-DMSO): δ 1.11 (d, 3H), 4.36 (m, 3H), 6.58 (t, 1H), 6.93 (d, 1H), 7.79 (m, 1H), 7.82 (d, 1H), 7.98 (d, 2H), 8.08 (bs, 1H), 8.25 (d, 1H), 13.20 (s, 1H).

reactant | 1H-pyrazole-3-carboxylic acid | 0.767 mmol, 89 mg | N1N=C(C=C1)C(=O)O | C4H4N2O2
reactant | DIPEA | 2.30 mmol, 0.40 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.767 mmol, 200 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-3-carboxamide | 100 mg | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NNC=C1 | C17H15ClN6O
